US04788185
2-(2-Amino-5-bromothiazol-4-yl)-2(Z)-(tert-butoxycarbonylmethoxyimino)acetic acid
A mixture of 12 g of 2-(2-aminothiazol-4-yl)-2(Z)-(tert-butoxycarbonylmethoxyimino)acetic acid and 9.54 g of N-bromosuccinimide in 100 ml of methanol is stirred at 60° C. for 2 hours.

reactant | 2-(2-aminothiazol-4-yl)-2(Z)-(tert-butoxycarbonylmethoxyimino)acetic acid | 12 g | NC=1SC=C(N1)/C(/C(=O)O)=N/OCC(=O)OC(C)(C)C | C11H15N3O5S
reactant | N-bromosuccinimide | 9.54 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | methanol | 100 ml | CO | CH4O
product | 2-(2-Amino-5-bromothiazol-4-yl)-2(Z)-(tert-butoxycarbonylmethoxyimino)acetic acid | NC=1SC(=C(N1)/C(/C(=O)O)=N/OCC(=O)OC(C)(C)C)Br | C11H14BrN3O5S
